US05104867
1-(1) (2S, 4R)-1-t-Butoxycarbonyl-4-hydroxy-2-pyrrolidinecarboxylic acid
27.3 g of sodium hydroxide were dissolved in 380 ml of water, and 85 g of (2S, 4R)-4-hydroxy-2-pyrrolidine-carboxylic acid were then added to the solution at 3 to 5° C. followed by 570 ml of tetrahydrofuran at the same temperature. A solution of 141.5 g of di-t-butoxy carbonate in 190 ml of tetrahydrofuran was then added to the reaction mixture at 3° to 5° C., and then the mixture was stirred at 50° to 55° C. for 2 hours. At the end of this time, the mixture was cooled, and then its pH was adjusted to a value of 3 to 4 by the addition of concentrated hydrochloric acid followed by ammonium chloride. The mixture was then extracted with tetrahydrofuran and the extract was dried. The solvent was then distilled from the extract under reduced pressure, giving 128 g of the title compound as a colorless powder.

reactant | sodium hydroxide | 27.3 g | [OH-].[Na+]
reactant | (2S, 4R)-4-hydroxy-2-pyrrolidine-carboxylic acid | 85 g | O[C@@H]1C[C@H](NC1)C(=O)O | C5H9NO3
reactant | di-t-butoxy carbonate | 141.5 g | C(OOC(C)(C)C)(OOC(C)(C)C)=O | C9H18O5
reactant | hydrochloric acid | Cl | ClH
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | tetrahydrofuran | 190 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 570 ml | O1CCCC1 | C4H8O
solvent | water | 380 ml | O | H2O
product | (2S, 4R)-1-t-Butoxycarbonyl-4-hydroxy-2-pyrrolidinecarboxylic acid | 128 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)O)C(=O)O | C10H17NO5
